US06756378B2
To a stirred solution of methyl 3,5-dichloro-4-hydroxybenzoate (600 mg, 2.714 mmol), N-tert-butoxycarbonylprolinol (546 mg, 2.714 mmol), and Ph3P (854 mg, 3.257 mmol) in THF (10 mL) was added dropwise DIAD (0.68 mL, 3.283 mmol) at room temp and the mixture was stirred for 3 days at room temp, and for 18 hr at 70° C. The reaction mixture was concentrated and the residue was chromatographed on silica-gel with n-hexane-EtOAc (6:1, v/v) as eluent to give 988.8 mg (90%) methyl 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3,5-dichlorobenzoate a pale yellowish oil. 1H-NMR (400 MHz, CDCl3) δ1.44 (s, 9H), 1.88-2.15 (br m, 3H), 2.34 (br s, 1H), 3.40-3.44 (m, 2H), 3.92 (s, 3H), 3.92, 4.14 (m, 1H), 4.18 (br s, 2H), 7.98 (s, 2H); MS (FAB) m/z 404 (M++1).

reactant | methyl 3,5-dichloro-4-hydroxybenzoate | 2.714 mmol, 600 mg | ClC=1C=C(C(=O)OC)C=C(C1O)Cl | C8H6Cl2O3
reactant | N-tert-butoxycarbonylprolinol | 2.714 mmol, 546 mg | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 3.257 mmol, 854 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 3.283 mmol, 0.68 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3,5-dichlorobenzoate | 988.8 mg, 90% | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=C(C=C(C(=O)OC)C=C1Cl)Cl | C18H23Cl2NO5
